US04994486
A suspension of 44.1 mg. (0.159 mmol) of 6-methoxy-4-phenyl-2,3,4,5-tetrahydro-1H-benzo[e]isoindole hydrochloride, from Step 6, in 2 mL of methylene chloride is cooled to -78° C. and 0.64 mL of a 1M solution of boron tribromide in methylene chloride is added. The reaction is warmed to ambient temperature for 1 h and recooled to -78° C. before 1 mL of methanol is added. After warming to ambient temperature for 1 h, the solvents are removed in vacuo. Additional methanol (5 mL) is added and removed in vacuo. The product is chromatographed on silica gel, eluting with 18:1:1 ethyl acetate:formic acid: water to give 6-hydroxy-4-phenyl-2,3,4,5-tetrahydro-1H-benzo[e]isoindole formic acid salt.

reactant | 6-methoxy-4-phenyl-2,3,4,5-tetrahydro-1H-benzo[e]isoindole hydrochloride | 0.159 mmol | Cl.COC1=CC=CC=2C=3CNCC3C(CC21)C2=CC=CC=C2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 1 mL | CO | CH4O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-4-phenyl-2,3,4,5-tetrahydro-1H-benzo[e]isoindole formic acid salt | C(=O)O.OC1=CC=CC=2C=3CNCC3C(CC21)C2=CC=CC=C2 | InChI=1S/C18H17NO.CH2O2/c20-18-8-4-7-13-15(18)9-14(12-5-2-1-3-6-12)17-11-19-10-16(13)17;2-1-3/h1-8,14,19-20H,9-11H2;1H,(H,2,3)
